US09359358B2
{3-[4-(7-{[2-(Trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (55.3 mg, 0.115 mmol) and 4-{[4-(1-hydroxy-1-methylethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexanone were dissolved in dry 1,2-dichloroethane (1.38 mL) and were stirred for 5 min and sodium triacetoxyborohydride (86.1 mg, 0.406 mmol) was added. The reaction mixture was stirred at 25° C. for 16 h, at which time LCMS analysis showed mainly the two diastereomeric products. The reaction was quenched with water, neutralized with NaHCO3 and extracted with ethyl acetate and the solvent was evaporated. The residue was purified by LCMS (pH 10) and the fractions containing the second peak were combined and evaporated to give {1-(cis-4-{[4-(1-hydroxy-1-methylethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo [2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile. The first peak was also isolated to give {1-(trans-4-{[4-(1-hydroxy-1-methyl ethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile. MS (ES): 712(M+1).

reactant | {3-[4-(7-{[2-(Trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 0.115 mmol, 55.3 mg | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | 4-{[4-(1-hydroxy-1-methylethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexanone | OC(C)(C)C1=CC(=NC(=C1)C(F)(F)F)OC1CCC(CC1)=O | C15H18F3NO3
reactant | sodium triacetoxyborohydride | 0.406 mmol, 86.1 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1.38 mL | ClCCCl | C2H4Cl2
product | {1-(cis-4-{[4-(1-hydroxy-1-methylethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo [2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile | OC(C)(C)C1=CC(=NC(=C1)C(F)(F)F)O[C@H]1CC[C@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N | C35H45F3N8O3Si
